US04140696
4-Acetyl-3-amino-2-(p-methoxyphenyl)pyrrole
Starting from 2-amino-2-(p-methoxyphenyl)acetonitrile and acetylacetaldehyde, the open-chain intermediate product is prepared, boiling at 180° C./0.03 mm Hg. Overall yield of the title compound: 44%, m.p. 198°-200° C. (from diethyl ether).

reactant | 2-amino-2-(p-methoxyphenyl)acetonitrile | NC(C#N)C1=CC=C(C=C1)OC | C9H10N2O
reactant | acetylacetaldehyde | C(C)(=O)CC=O | C4H6O2
product | 4-Acetyl-3-amino-2-(p-methoxyphenyl)pyrrole | C(C)(=O)C=1C(=C(NC1)C1=CC=C(C=C1)OC)N | C13H14N2O2
